US07479502B2
tert-Butylisocyanate (2.9 mL, 25.5 mmol) followed by triethylamine (9.8 mL, 68 mmol) was added to a magnetically stirred solution of 3-bromo-4-(2-methoxyethoxymethoxy)benzyl-amine (5 g, 17 mmol) in DMF (50 mL) and the mixture was stirred at room temperature for 15 minutes. The mixture was diluted with water (10 mL) and the dilution was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated by evaporation. Product was purified from the residue by chromatographic (silica gel) employing 100% ethyl acetate as eluent to give 1-[3-bromo4-(2-methoxyethoxymethoxy)benzyl]-3-tert-butylurea (5.3 g).

reactant | tert-Butylisocyanate | 25.5 mmol, 2.9 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | triethylamine | 68 mmol, 9.8 mL | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-4-(2-methoxyethoxymethoxy)benzyl-amine | 17 mmol, 5 g | BrC=1C=C(CN)C=CC1OCOCCOC | C11H16BrNO3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 1-[3-bromo4-(2-methoxyethoxymethoxy)benzyl]-3-tert-butylurea | 5.3 g | BrC=1C=C(CNC(=O)NC(C)(C)C)C=CC1OCOCCOC | C16H25BrN2O4
